### PR TITLE
feat: add `getElem_swapIfInBounds*` lemmas and deprecate `getElem_swap'`

### PR DESCRIPTION
**Pull request by linesthatinterlace**
This PR adds lemmas of the form `getElem_swapIfInBounds*` and deprecates `getElem_swap'`.

### CODE REVIEW

**Comment by linesthatinterlace** [comment]
changelog-library

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f40d72ea4795561b7e656898482ca022bf013d0f --onto efe2ab4c04e81fe2a3edcc0d861449490b4431b2`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-05-19 17:18:56)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 74d87463569cca5a63e38ca087cb96ee558adc08 --onto c12159b51982221bdd66f0c5997f85e1f9d91772`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-06-05 13:59:04)
- ❗ Mathlib CI can not be attempted yet, as the `nightly-testing-2025-10-10` tag does not exist there yet. We will retry when you push more commits. If you rebase your branch onto `nightly-with-mathlib`, Mathlib CI should run now. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-10-10 12:18:30)

**Comment by linesthatinterlace** [comment]
The alternative incidentally would be something like:
```
theorem getElem_swapIfInBounds {as : Array α} {i j k : ℕ} (hk : k < (as.swapIfInBounds i j).size) :
    (as.swapIfInBounds i j)[k] =
    if h : i < as.size ∧ j < as.size then (as.swap i j)[k]'
      (hk.trans_eq ((as.size_swapIfInBounds).trans (as.size_swap).symm))
    else as[k]'(hk.trans_eq as.size_swapIfInBounds) := by
  unfold swapIfInBounds
  split
  · split <;> simp_all
  · simp_all
  ```
 
I think this is a more compact form but it will generally result in more rewrites. There are places where this is what you'd want though.

File: src/Init/Data/Array/Lemmas.lean [hunk 1]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
 
+/-! ### swapIfInBounds -/
+
 @[simp] theorem size_swapIfInBounds {xs : Array α} {i j : Nat} :
     (xs.swapIfInBounds i j).size = xs.size := by unfold swapIfInBounds; split <;> (try split) <;> simp [size_swap]
 
 @[deprecated size_swapIfInBounds (since := "2024-11-24")] abbrev size_swap! := @size_swapIfInBounds
 
+@[simp]
+theorem getElem_swapIfInBounds_of_ge_left {xs : Array α} {i j k : Nat} (h : xs.size ≤ i)
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
theorem getElem_swapIfInBounds_of_size_le_left {xs : Array α} {i j k : Nat} (h : xs.size ≤ i)
```

File: src/Init/Data/Array/Lemmas.lean [hunk 2]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+    (hk : k < (xs.swapIfInBounds i j).size) :
+    (xs.swapIfInBounds i j)[k] = xs[k]'(Nat.lt_of_lt_of_eq hk size_swapIfInBounds) := by
+  unfold swapIfInBounds
+  simp only [dif_neg (Nat.not_lt_of_le h)]
+
+@[simp]
+theorem getElem_swapIfInBounds_of_ge_right {xs : Array α} {i j k : Nat} (h : xs.size ≤ j)
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]: Similarly.

File: src/Init/Data/Array/Lemmas.lean [hunk 3]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+  simp only [size_swapIfInBounds] at hk
+  unfold swapIfInBounds
+  split
+  · split
+    · exact getElem_swap_of_ne _ hi hj
+    · rfl
+  · rfl
+
+theorem getElem_swapIfInBounds {xs : Array α} {i j k : Nat}
+    (hk : k < (xs.swapIfInBounds i j).size) : (xs.swapIfInBounds i j)[k] =
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
    (hk : k < (xs.swapIfInBounds i j).size) :
    (xs.swapIfInBounds i j)[k] =
```

Comment (kim-em) [reply src/Init/Data/Array/Lemmas.lean]: (I don't like the colon coming midline if we are already line-breaking the statement)

File: src/Init/Data/Array/Lemmas.lean [hunk 4]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+    if h : k = i ∧ j < xs.size then xs[j]'h.2
+    else  if h₂ : k = j ∧ i < xs.size then xs[i]'h₂.2
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
    else if h₂ : k = j ∧ i < xs.size then xs[i]'h₂.2
```

File: src/Init/Data/Array/Lemmas.lean [hunk 5]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+          else xs[k]'(Nat.lt_of_lt_of_eq hk size_swapIfInBounds) := by
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]: Reduce indenting here?

File: src/Init/Data/Array/Lemmas.lean [hunk 6]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+theorem getElem_swapIfInBounds_right {xs : Array α} {i j : Nat} (hi : i < xs.size)
+    (hj : j < (xs.swapIfInBounds i j).size) :
+    (xs.swapIfInBounds i j)[j] = xs[i] := by
+  simp only [size_swapIfInBounds] at hj
+  unfold swapIfInBounds
+  simp only [dif_pos hi, dif_pos hj]
+  exact getElem_swap_right
+
+@[simp]
+theorem getElem_swapIfInBounds_of_ne_ne {xs : Array α} {i j k : Nat} (hi : k ≠ i) (hj : k ≠ j)
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
theorem getElem_swapIfInBounds_of_ne_of_ne {xs : Array α} {i j k : Nat} (hi : k ≠ i) (hj : k ≠ j)
```
Tedious, but I think this is the rule.

File: src/Init/Data/Array/Lemmas.lean [hunk 7]
```diff
@@ -4125,11 +4129,79 @@ theorem swap_comm {xs : Array α} {i j : Nat} (hi hj) : xs.swap i j hi hj = xs.s
...
+    (xs.swapIfInBounds i j)[k] = xs[k]'(Nat.lt_of_lt_of_eq hk size_swapIfInBounds) := by
+  simp only [size_swapIfInBounds] at hk
+  unfold swapIfInBounds
+  split
+  · split
+    · exact getElem_swap_of_ne _ hi hj
+    · rfl
+  · rfl
+
+theorem getElem_swapIfInBounds {xs : Array α} {i j k : Nat}
```
Comment (kim-em) [inline src/Init/Data/Array/Lemmas.lean]:
```suggestion
@[grind =] theorem getElem_swapIfInBounds {xs : Array α} {i j k : Nat}
```

**Comment by wrenna-robson** [comment]
I think this should be tagged with awaiting-review.

**Comment by wrenna-robson** [comment]
awaiting-review
